US09233104B2
To a solution of N-(2-nitro-6-(pyridin-2-yl)phenyl)acetamide (XCVIII) (4.41 g, 17 mmol, 1 eq) in MeOH (20 mL) was added 2N NaOH aqueous (50 mL) and the mixture was refluxed until the stirring material was consumed completely. The mixture was concentrated in vacuo to remove the MeOH and the precipitate was collected by filtration to afford 2-nitro-6-(pyridin-2-yl)aniline (XCIX) (2.4 g, 11.2 mmol, 65% yield) as a yellow solid. ESIMS found for C11H9N3O2 m/z 216 (M+H).

reactant | N-(2-nitro-6-(pyridin-2-yl)phenyl)acetamide | 17 mmol, 4.41 g, 1 eq | [N+](=O)([O-])C1=C(C(=CC=C1)C1=NC=CC=C1)NC(C)=O | C13H11N3O3
reactant | NaOH | 2N, 50 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 2-nitro-6-(pyridin-2-yl)aniline | 11.2 mmol, 2.4 g, 65% yield | [N+](=O)([O-])C1=C(N)C(=CC=C1)C1=NC=CC=C1 | C11H9N3O2
